US09163021B2
1-[(Methoxyacetyl)oxy]pyrrolidine-2,5-dione
A solution of methoxyacetyl chloride (108.5 g, 1 mol) in absolute dichloromethane (170 mL) was added dropwise at 0° C. to a solution of N-hydroxysuccinimide (115 g, 1 mol) and TEA (111 g, 1 mol) in dichloromethane (900 mL). The reaction mixture was stirred at room temperature for 48 hours, and a saturated NaHCO3 solution (500 mL) was added under stirring. The organic layer was separated, and the aqueous layer was subjected to extraction twice with chloroform. The combined organic extract was washed with saturated NaHCO3 solution (200 mL), brine (200 mL), and dried over Na2SO4. The solution was concentrated in vacuo to afford the title compound as a yellow oil (147.8 g, 79%). Taken directly on to the next step.

reactant | methoxyacetyl chloride | 1 mol, 108.5 g | COCC(=O)Cl | C3H5ClO2
reactant | N-hydroxysuccinimide | 1 mol, 115 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | 1-[(Methoxyacetyl)oxy]pyrrolidine-2,5-dione | 147.8 g, 79% | COCC(=O)ON1C(CCC1=O)=O | C7H9NO5
